US06071935
D. 5,5-Bis-pyridin-4-ylmethyl-2-thioxo-3-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-4-one
2-Amino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester (2.50 g, 9.23 mmol) was dissolved in absolute ethanol (50 ml). To the reaction was added 5.01 g (23.9 mmol) of (+)-3-pinanemethyl isothiocyanate. The reaction was then heated to 75° C. under an atmosphere of dry N2. After stirring for 16 hours, the reaction was subsequently concentrated under vacuum. The resulting oil was chromatographed on silica gel using a gradient of neat ethyl acetate to 5% methanol in ethyl acetate to give 3.32 g (7.41 mmol) of the titled compound.

reactant | 2-Amino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester | 9.23 mmol, 2.50 g | COC(C(CC1=CC=NC=C1)(CC1=CC=NC=C1)N)=O | C15H17N3O2
reactant | (+)-3-pinanemethyl isothiocyanate | 23.9 mmol, 5.01 g | CC1C(CC2CC1C2(C)C)CN=C=S | C12H19NS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,5-Bis-pyridin-4-ylmethyl-2-thioxo-3-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-4-one | 7.41 mmol, 3.32 g | N1=CC=C(C=C1)CC1(C(N(C(N1)=S)CC1C(C2C(C(C1)C2)(C)C)C)=O)CC2=CC=NC=C2 | C26H32N4OS
